US04002680
15.2 g (0.1 mol) of salicylic acid hydrazide and 20.0 g (0.1 mol) of lauric acid are suspended in 200 ml of chlorobenzene, 2.0 g (0.025 mol) of pyridine are added and the mixture is heated to the boil. 13.1 g (0.11 mol) of thionyl chloride are added dropwise at this temperature. The product separates out initially as a turbidity and then as a flocculent precipitate. After boiling for 1 hour the mixture is cooled and the product is filtered off and washed with a little benzene and then with petroleum ether. N-Salicyloyl-N'-lauroyl-hydrazine of melting point 158° C is thus obtained in a yield of 53%. The product can be recrystallised from ethylene glycol monomethyl ether.

reactant | salicylic acid hydrazide | 0.1 mol, 15.2 g | C(C=1C(O)=CC=CC1)(=O)NN | C7H8N2O2
reactant | lauric acid | 0.1 mol, 20.0 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | pyridine | 0.025 mol, 2.0 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.11 mol, 13.1 g | S(=O)(Cl)Cl | Cl2OS
solvent | chlorobenzene | 200 ml | ClC1=CC=CC=C1 | C6H5Cl
product | N-Salicyloyl-N'-lauroyl-hydrazine | yield of 53% | C(C=1C(O)=CC=CC1)(=O)NNC(CCCCCCCCCCC)=O | C19H30N2O3
